US09403839B2
To [cis-8-hydroxy-10-(3-pyridyl)-11-oxa-3-azaspiro[5.5]undecan-3-yl]-(4-isopropoxy-3-methyl-phenyl)methanone (80 mg) in DMF at 0° C. was added sodium hydride (5 eq., 60 wt % in mineral oil). After stirring at room temperature for 5 minutes, the cyclopropylmethyl bromide (5 eq.) was added. The reaction mixture was allowed to stir overnight at room temperature. The reaction mixture was stirred with saturated sodium bicarbonate solution (20 mL). The mixture was repartitioned between water (50 mL) and ethyl acetate (50 mL). The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude material was purified by column chromatography to provide cis-4-(cyclopropylmethoxy)-2-(pyridin-3-yl)-1-oxa-9-azaspiro[5.5]undecan-9-yl)(4-isopropoxy-3-methylphenyl)methanone. 1H NMR (400 MHz, CDCl3) δ 8.62 (s, 1H), 8.55 (d, J =3.9 Hz, 1H), 7.74 (d, J=7.8 Hz, 1H), 7.30 (dd, J=7.8, 4.8 Hz, 1H), 7.23-7.11 (m, 2H), 6.80 (d, J=8.2 Hz, 1H), 4.70-4.51 (m, 1H), 4.56 (dq, J=12.1, 6.1 Hz, 1H), 4.37 (br s, 1H), 3.82-3.00 (m, 5H), 3.34 (d, J=6.8 Hz, 1H), 2.40-2.10 (m, 2H), 2.19 (s, 3H), 2.09-1.92 (m, 2H), 1.88-1.39 (m, 4H), 1.42-1.26 (m, 6H), 1.04 (td, J=7.0, 3.5 Hz, 1H), 0.64-0.47 (m, 2H), 0.30-0.12 (m, 2H).

reactant | [cis-8-hydroxy-10-(3-pyridyl)-11-oxa-3-azaspiro[5.5]undecan-3-yl]-(4-isopropoxy-3-methyl-phenyl)methanone | 80 mg | O[C@@H]1CC2(CCN(CC2)C(=O)C2=CC(=C(C=C2)OC(C)C)C)O[C@@H](C1)C=1C=NC=CC1 | C25H32N2O4
reactant | sodium hydride | 5 eq. | [H-].[Na+]
reactant | cyclopropylmethyl bromide | 5 eq. | C1(CC1)CBr | C4H7Br
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
product | (4-isopropoxy-3-methylphenyl)methanone | C(C)(C)OC1=C(C=C(C=C1)C=O)C | C11H14O2
